US06069157
5-Amino-3-cyano-1-(2,6-dichloro-4-methylphenyl)-4-(2-furanyl)pyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-methylphenyl)pyrazole (1 g) in acetonitrile (15 ml) at room temperature was added N-iodosuccinimide (0.845 g). Stirring was continued for 10 minutes and the mixture was then evaporated to dryness. The residue was taken up in dioxane (20 ml). Furan-2-boronic acid (0.845 g), tetrakis(triphenylphosphine)palladium(0) (0.35 g) and a solution of potassium carbonate (2.8 g) in water (8 ml) were added. The mixture was heated under reflux for 24 hours, then cooled and partitioned between ether and water. The separated aqueous layer was extracted with ether and the combined ether layers were washed with brine, dried and evaporated. The green oily residue was purified by column chromatography on silica gel eluted with hexane:dichloromethane (1:2). Combination and evaporation of suitable fractions followed by recrystallisation from toluene gave the title compound as a white solid, m.p. 191.5-192.5° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-methylphenyl)pyrazole | 1 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C)Cl)C#N | C11H8Cl2N4
reactant | N-iodosuccinimide | 0.845 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-methylphenyl)-4-(2-furanyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C)Cl)C#N)C=1OC=CC1 | C15H10Cl2N4O
